US05158971
2-(6,6,6-Trifluorohexyl)thiophene
To a solution of thiophene (4.2 g) in dry tetrahydrofuran (25 ml) at -15° C. under nitrogen, was added n-butyllithium (20 ml, 2.5M) dropwise and the solution stirred at -15° C. for 2 hours. The solution was then cooled to -78° C. and 6,6,6-trifluorohexylbromide (10.95 g) in dry tetrahydrofuran (20 ml) was added and solution stirred at -78° C. for 1 hour, allowed to warm to room temperature and stirred overnight. The reaction mixture was poured onto ice, extracted with ether (2×75 ml), dried over MgSO4 and evaporated under reduced pressure to give a brown oil. The oil was distilled under reduced pressure to give a colourless oil, b.p. 66° C./20 mm.

reactant | thiophene | 4.2 g | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 2.5M, 20 ml | C(CCC)[Li]
reactant | 6,6,6-trifluorohexylbromide | 10.95 g | FC(CCCCCBr)(F)F | C6H10BrF3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(6,6,6-Trifluorohexyl)thiophene | FC(CCCCCC=1SC=CC1)(F)F | C10H13F3S
